US06713508B2
Step E: 7-(3-(2-Chloro-4-(2,2,2-trifluoroethoxy)phenoxy)propoxy)-chromane-2-carboxylic acid
To a 2 ml isopropanol solution of ethyl 7-(3-(2-chloro-4-(2,2,2-trifluoroethoxy)phenoxy)propoxy)-chromane-2-carboxylate (17 mg, 0.035 mmol) was added 2N aq. sodium hydroxide. This mixture was heated to 70° C. overnight. The solvent was removed under reduced pressure. The residue was diluted with AcOEt and 2N hydrochloric acid. The organic layer was separated, and the aqueous layer was extracted twice with AcOEt. The combined organic layers were dried over anhydrous Na2SO4, filtered, and concentrated to give the title compound 16 mg.

reactant | ethyl 7-(3-(2-chloro-4-(2,2,2-trifluoroethoxy)phenoxy)propoxy)-chromane-2-carboxylate | 0.035 mmol, 17 mg | ClC1=C(OCCCOC2=CC=C3CCC(OC3=C2)C(=O)OCC)C=CC(=C1)OCC(F)(F)F | C23H24ClF3O6
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | isopropanol | 2 ml | C(C)(C)O | C3H8O
product | 7-(3-(2-Chloro-4-(2,2,2-trifluoroethoxy)phenoxy)propoxy)-chromane-2-carboxylic acid | 16 mg | ClC1=C(OCCCOC2=CC=C3CCC(OC3=C2)C(=O)O)C=CC(=C1)OCC(F)(F)F | C21H20ClF3O6
